2124-06-10 08:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Went to IR drained 4cc bloody fluid from peri nephric site and 5cc
   pus like fluid from prostatic site.  Uro concerned that IR may not have
   drained the prostate but rather the bladder.
   - Patient initially started on Vanc and Zosyn.  Called from OSH with
   +Bl Cx GNR in [**2-11**] bottles.  Given one dose of gentamycin to double
   coverage GNR sepsis (rec by uro) insetting of possible prostatitis.
   - Low blood pressures: fluid boluses and maint fluids
   - K of 6 --> repeat K 5.3 after fluids. Lactate of 1.3.
   - NPO for possiblity of TURP or repeat IR drainage in case clinically
   worse.
   - Will get HD today.
   Allergies:
   Codeine
   Rash;
   Wellbutrin (Oral) (Bupropion Hcl)
   seizures [**Last Name (un) 5726**]
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2124-6-9**] 11:09 AM
   Gentamicin - [**2124-6-9**] 11:17 PM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2124-6-9**] 08:10 PM
   Other medications:
   Changes to medical and family history:
   none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-6-10**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.9
C (100.3
   HR: 73 (66 - 127) bpm
   BP: 107/55(67) {74/39(48) - 162/129(137)} mmHg
   RR: 18 (7 - 28) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,341 mL
                                                                  3,159 mL
   PO:
             TF:
   IVF:
                                                                  1,341 mL
                                                                  3,159 mL
   Blood products:
   Total out:
                                                                    336 mL
                                                                    110 mL
   Urine:
                                                                    336 mL
                                                                    110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,005 mL
                                                                  3,049 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///21/
   Physical Examination
   Gen: Well appearing adult male, moderate discomfort.
   Chest: CTAB anterior and posterior. Right subclavian HD catheter in
   place without focal evidence of infection.
   Cor: Normal S1, S2. RRR. No murmurs appreciated.
   Abdomen: Positive voluntary guarding with rebound tenderness.
   Non-distended. +BS, no HSM.
   GU: Positive CVA tenderness, mostly on left. Per urology exam,
   "exquisitely tender and boggy" prostate.
   Extremity: Warm, without edema. 2+ DP pulses bilat.
   Labs / Radiology
   124 K/uL
   9.0 g/dL
   69 mg/dL
   7.6 mg/dL
   21 mEq/L
   5.5 mEq/L
   61 mg/dL
   103 mEq/L
   136 mEq/L
   26.3 %
   10.8 K/uL
        [image002.jpg]
                             [**2124-6-9**]  04:23 PM
                             [**2124-6-10**]  04:01 AM
   WBC
   18.1
   10.8
   Hct
   36.1
   26.3
   Plt
   141
   124
   Cr
   7.8
   7.6
   Glucose
   84
   69
   Other labs: PT / PTT / INR:15.3/26.4/1.4, Lactic Acid:1.3 mmol/L,
   Ca++:7.3 mg/dL, Mg++:1.6 mg/dL, PO4:6.5 mg/dL
   Assessment and Plan
   ASSESSMENT:  60 yoM with history of ESRD and renal stones presenting
   with abdominal pain, found to have left pylonephritis and high
   suspecion for renal and prostate abscesses.
   PLAN:
   # Pylonephritis/renal and prostatic abscesses: Pt may have seeded
   urinary tract during recent urologic procedures. Possible causative
   organisms would include urinary flora (E. Coli, enterococcus, staph)
   versus MRSA given indwelling stent.  Patient went for IR drainage
   yesterday which resulted in 4cc bloody fluid from perinephric site and
   5cc pus like fluid from prostatic site.  There is some concern that the
   needle went through the prostate and drained the bladder.  Called by
   OSH for +BC
 GNR in
 bottles.  Lactate decreased with fluids and
   blood pressure responeded to fluids.
   - continue emperic broad coverage with Zosyn and vancomycin.  Add one
   dose of Gentamycin to double cover GNR.
   - follow-up blood and urinary cultures
   - hold all antihypertensives for now
   - pyridium and narcotics for pain control
   # ESRD: MWF schedule as above. Will notify renal of pt's presence so HD
   may continue.  Will hold ACEi for now as above.  Continue renagel.
   -HD today.
   # HTN: Hold antihypertensives for now given tenuous clinical status.
   Restart lisinopril and amlodipine when BP allows.
   # Anemia: No baseline for comparison. Will trend for now. Will send T&S
   given planned surgery.
   # Coagulopathy: INR 1.5 on admission. No prior history of liver
   disease, but will check LFTs. [**Month (only) 11**] be related to nutritional status.
   Will trend and give 1 mg Vitamin K in anticipation of surgery.
   # FEN: feed him today if not getting procedure.
   ICU Care
   ICU Care
   Nutrition: PO diet
   Glycemic Control: Blood sugar well controlled
   Lines:
   20 Gauge - [**2124-6-9**] 08:38 AM
   14 gauge.
   HD cath.
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Not indicated
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   MICU Attending Addendum:
   On this day I examined the patient and was present for the key portions
   of the services provided.  I have reviewed Dr [**First Name (STitle) 5725**]
s note and I agree
   with the findings and plan of care.  Mr [**Known lastname 5708**] was admitted with
   urosepsis, including hypotension and positive blood cultures.  Today he
   is doing much better.  His blood pressure, while not his norm, is
   certainly adequate for perfusion and has only  needed fluids, not
   pressors. Lactate much improved. He also feels better and even is
   demanding to eat! We will give double GNR coverage for a couple more
   days, but I think his Vancomycin can be stopped, as no evidence of a
   GPC infection. He should remain in MICU for at least another day, but
   hopefully soon thereafter he will be stable enough for transfer to the
   wards with urology f/u.  35 min spent in the care of this critically
   ill patient.
   [**First Name8 (NamePattern2) 548**] [**Last Name (NamePattern1) 549**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 548**] [**Last Name (NamePattern1) 549**], MD
   on:[**2124-6-10**] 13:51 ------

2124-06-11 06:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: prostatic abscess s/p drainage
   24 Hour Events:
   - hemodialysis- no fluid removed
   - micro data- GNR in urine, prostatic abscess fluid, and [**2-11**] bcx; (from
   [**First Name8 (NamePattern2) 13**] [**Last Name (NamePattern1) **] Hospital [**6-8**]: Pseudomonas aeroginosa 2/2 blood cultures,
   no sensitivities yet)
   - stopped vancomycin, continued Zosyn and gentamicin
   - urology recs- keep stent in, to be removed by outpatient urologist
   once infection clears in [**3-15**] weeks; keep foley to gravity until
   discharge, once afebrile and no leukocytosis; start flomax and proscar;
   continue antibiotics for 4-6 weeks for prostatitis; ADAT
   - renal recs- increase Zosyn to 2.25g IV q8h; dose gent by level, stop
   maintanence fluids
   - access- PIV x3
   - goal I+O- slightly positive overnight
   - CXR- probable subsegmental atelectasis or scarring at the left base.
   Consider followup imaging to exclude progression to infiltrate, if
   clinically indicated. No CHF. Right IJ line tip, as described. No ptx.
   - re: kidney transplant, brother [**Name (NI) 5742**] is ill on [**Hospital Ward Name 1107**] in MICU
   (GIB, cirrhosis) and has offered to donate his kidney to [**Known firstname **] should
   he die; however, it appears from recent update that brother is to be
   extubated and is actually doing better; [**Known firstname **] is followed by Dr.
   [**Last Name (STitle) 5743**] in [**Location (un) 3198**] (nephrologist) and Dr. [**Last Name (STitle) 5744**] at [**Hospital 839**] Hospital
   in NH (transplant surgeon); **note that [**Known firstname **] and brother do not get
   along--brother has EtOH history, etc--and it appears that [**Known firstname **] is
   not aware of this plan for kidney transplant, nor is it apparent that
   he would agree to it. The family ([**Known firstname 5745**] sister and [**Name2 (NI) 5746**]
   daughter) are trying to arrange this**
   - overnight- no significant events
   - this morning complain of persistant suprapubic pain, but improved
   from yesterday
   Allergies:
   Codeine
   Rash;
   Wellbutrin (Oral) (Bupropion Hcl)
   seizures [**Last Name (un) 5726**]
   Last dose of Antibiotics:
   Gentamicin - [**2124-6-10**] 09:29 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-6-11**] 03:59 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2124-6-10**] 07:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-6-11**] 05:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.3
C (99.1
   HR: 75 (55 - 101) bpm
   BP: 126/59(74) {94/43(54) - 147/72(91)} mmHg
   RR: 16 (0 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,050 mL
                                                                    279 mL
   PO:
                                                                    720 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  4,330 mL
                                                                    159 mL
   Blood products:
   Total out:
                                                                    710 mL
                                                                    110 mL
   Urine:
                                                                    710 mL
                                                                    110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,340 mL
                                                                    169 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   Physical Examination
   Gen: Well appearing adult man, in no acute distress
   Chest: CTAB anterior and posterior. Right subclavian HD catheter in
   place without focal evidence of infection.
   Cor: Normal S1, S2. RRR. [**3-17**] murmur loudest at left sternal border
   Abdomen: Positive voluntary guarding with rebound tenderness.
   Non-distended. +BS, no HSM.
   GU: Positive CVA tenderness, mostly on left. Per urology exam,
   "exquisitely tender and boggy" prostate.
   Extremity: Warm, without edema. 2+ DP pulses bilat.
   Labs / Radiology
   149 K/uL
   9.8 g/dL
   85 mg/dL
   4.9 mg/dL
   26 mEq/L
   4.1 mEq/L
   27 mg/dL
   103 mEq/L
   141 mEq/L
   29.6 %
   8.2 K/uL
        [image002.jpg]
                             [**2124-6-9**]  04:23 PM
                             [**2124-6-10**]  04:01 AM
                             [**2124-6-11**]  12:38 AM
                             [**2124-6-11**]  04:03 AM
   WBC
   18.1
   10.8
   8.2
   Hct
   36.1
   26.3
   28.0
   29.6
   Plt
   141
   124
   149
   Cr
   7.8
   7.6
   4.9
   Glucose
   84
   69
   85
   Assessment and Plan
   A 60 year-old man with history of ESRD and renal stones presenting with
   abdominal pain, found to have left pylonephritis and high suspecion for
   renal and prostate abscesses.
   # Pylonephritis/renal and prostatic abscesses: now s/p IR drainage [**6-9**]
   which resulted in 4 cc bloody fluid from perinephric site and 5 cc pus
   like fluid from prostatic site. OSH blood cultures are growing
   Pseudomonas in [**3-13**] culture bottles, sensitivities pending. So far
   patient received vanco and gent x1 dose. Currently on Zosyn for empiric
   Pseudomonas coverage.
   -continue empiric broad coverage with Zosyn
   -follow-up blood culture sensitivites from OSH and tailor antibiotics
   accordingly
   -hold all antihypertensives for now
   -pyridium and narcotics for pain control; could switch Dilaudid to po
   form if tolerating pos
   -tamsulosin and finasteride per urology
   -[**5-15**] week antibiotic course per urology, stent removal after he clears
   infection
   # ESRD: MWF schedule as above.
   -continue Renagel
   -HD per renal
   # HTN: hold antihypertensives for now given tenuous clinical status.
   Restart lisinopril and amlodipine when BP allows.
   # Anemia: no baseline for comparison. Guiaic negative on exam. Likely
   from ESRD +/- marrow suppression from acute illness.
   -iron studies and reticulocyte count pending
   -active type and screen
   -transfuse for hct <21
   # Coagulopathy: INR 1.5 on admission. No prior history of liver disease
   and LFTs were normal. [**Month (only) 11**] be related to nutritional status. INR
   improved to 1.1 after 1 mg vitamin K.
   -no active concerns
   # FEN: advance diet as tolerated
   ICU Care
   Nutrition: regular diet
   Glycemic Control: NA
   Lines:  20 Gauge - [**2124-6-9**] 08:38 AM, Dialysis Catheter - [**2124-6-9**]
   01:00 PM, 14 Gauge - [**2124-6-10**] 12:56 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: not indicated
   VAP: NA
   Comments:
   Communication:  Comments:
   Code status: FULL code
   Disposition: could call out to medicine floor today
   ------ Protected Section ------
   MICU Attending Addendum:
   On this day I examined this patient and was present for the key
   portions of the care provided.  I have reviewed  Dr [**Last Name (STitle) **]
s note above
   and agree with his findings and plan of care.  Mr [**Name13 (STitle) 5759**] looks great
   today, and is eating and walking in the [**Hospital Unit Name 10**].  His BP is fine and
   overall he seems to have resolved his pseudomonal sepsis from prostatic
   abscess, which has been drained, and for which he is on Zosyn.  Plan is
   to transfer to the floor later today. Urology will follow but so far
   have advised continuing the Foley cath for now and continuing
   antibiotics for [**5-15**] wks.
   [**First Name8 (NamePattern2) 548**] [**Last Name (NamePattern1) 549**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 548**] [**Last Name (NamePattern1) 549**], MD
   on:[**2124-6-11**] 16:07 ------